US09102591B2
2,3-dichloro-N-((3-(2-methylpyrimidin-5-yl)tetrahydrofuran-3-yl)methyl)benzamide
From 2,3-dichlorobenzoic acid and (3-(2-methylpyrimidin-5-yl)tetrahydrofuran-3-yl)methanamine. LCMS (MH+): m/z=366.0, tR (minutes, Method E)=0.45

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | (3-(2-methylpyrimidin-5-yl)tetrahydrofuran-3-yl)methanamine | CC1=NC=C(C=N1)C1(COCC1)CN | C10H15N3O
product | 2,3-dichloro-N-((3-(2-methylpyrimidin-5-yl)tetrahydrofuran-3-yl)methyl)benzamide | ClC1=C(C(=O)NCC2(COCC2)C=2C=NC(=NC2)C)C=CC=C1Cl | C17H17Cl2N3O2
